**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  Common Mode Power Line Choke
* Matchcode:              WE-TFC 
* Library Type:           LTspice
* Version:                rev22a
* Created/modified by:    Ella      
* Date and Time:          2022-05-26
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.SUBCKT  TFC  1  2  3  4  PARAMS:
L_L22  N15506  N16048  {dL3}
C_C18  N16464  N16990  {dC3}
L_L30  N16272  N16464  {dL3}
L_L28  N15832  N15848  {L2}
L_L36  N16554  N16568  {L2}
R_R33  N17026  4  {R2}
C_C15  N15564  N15574  {C1}
R_R24  N15564  N15820  {Rs4}
R_R31  N16568  4  {Rs1}
Kn_K13  L_L28  L_L36  1
C_C13  N15506  N15516  {dC3}
R_R20  N16990  N16478  {dR3}
L_L23  N16048  N15522  {dL3}
L_L31  N16478  N16272  {dL3}
L_L29  N15848  3  {L1}
R_R32  N15574  3  {R2}
L_L37  N16568  4  {L1}
R_R25  N15820  N15832  {Rs3}
Kn_K14  L_L29  L_L37  1
R_R12  N15516  N15522  {dR3}
C_C19  N16478  N17004  {dC4}
L_L24  N15522  N16070  {dL4}
L_L32  N16278  N16478  {dL4}
L_L21  N15544  N15556  {L6}
C_C21  N15544  N15556  {C3}
R_R26  N15832  N15848  {Rs2}
R_R17  2  N16464  {Rdc}
C_C16  N16272  N16048  {ck}
C_C14  N15522  N15538  {dC4}
R_R21  N17004  N16498  {dR5}
L_L25  N16070  N15544  {dL4}
L_L33  N16498  N16278  {dL4}
Kn_K9  L_L24  L_L25  
+  L_L32  L_L33  0.9999
R_R14  1  N15506  {Rdc}
R_R28  N16522  N16536  {Rs4}
R_R27  N15848  3  {Rs1}
C_C17  N16278  N16070  {ck}
R_R18  N16464  N16478  {dR4}
L_L34  N16522  N16536  {L4}
R_R13  N15538  N15544  {dR5}
L_L26  N15564  N15820  {L4}
R_R29  N16536  N16554  {Rs3}
R_R15  N15506  N15522  {dR4}
Kn_K11  L_L26  L_L34  1
R_R19  N16478  N16498  {dR6}
Kn_K8  L_L22  L_L23  
+  L_L30  L_L31  0.9999
Kn_K10  L_L21  L_L41  1
L_L27  N15820  N15832  {L3}
L_L35  N16536  N16554  {L3}
R_R22  N15544  N15556  {Rs6}
C_C20  N16522  N17026  {C1}
R_R30  N16554  N16568  {Rs2}
R_R16  N15522  N15544  {dR6}
Kn_K12  L_L27  L_L35  1
R_R35  N17743  N16522  {Rs5}
R_R34  N15556  N15564  {Rs5}
L_L40  N17743  N16522  {L5}
L_L39  N15556  N15564  {L5}
C_C24  N17743  N16522  {C2}
C_C23  N15556  N15564  {C2}
R_R36  N16498  N17743  {Rs6}
L_L41  N16498  N17743  {L6}
C_C25  N16498  N17743  {C3}
Kn_K15  L_L39  L_L40  1
.ends  TFCH
 ******** 
.SUBCKT  UU98V_744862018_1.8m  1  2  3  4
X1  1  2  3  4  TFC  PARAMS:
+  L1=0.00123660190142394
+  L2=0.00006701705440674
+  L3=0.000493004088894302
+  L4=0.000224826199486956
+  L5=4.65504570380959e-008
+  L6=2.78498066135292e-008
+  C1=8.46181731944311e-012
+  C2=3.73670849014524e-012
+  C3=1.27097127528123e-012
+  Rs1=19837.81419587115
+  Rs2=7155.91701442969
+  Rs3=192.411087825075
+  Rs4=5573.70200019057
+  Rs5=2.0826799302894
+  Rs6=1129.380663145605
+  R2=39.6163187388244
+  dL3=9e-07
+  dC3=9.7e-012
+  dL4=3.11e-009
+  dC4=18.33e-014
+  dR3=0.48
+  dR4=8680
+  dR5=0.58
+  dR6=366
+  Rdc=0.31
+  ck=3.4pF
.ends  UU98V_744862018_1.8m
   *********
.SUBCKT  UU98V_744862033_3.3m  1  2  3  4
X1  1  2  3  4  TFC  PARAMS:
+  L1=0.00323660190142394
+  L2=0.00006701705440674
+  L3=0.000493004088894302
+  L4=0.000224826199486956
+  L5=2.65504570380959e-008
+  L6=2.78498066135292e-008
+  C1=8.46181731944311e-012
+  C2=3.73670849014524e-012
+  C3=1.27097127528123e-012
+  Rs1=49837.81419587115
+  Rs2=7155.91701442969
+  Rs3=192.411087825075
+  Rs4=5573.70200019057
+  Rs5=200.0826799302894
+  Rs6=1129.380663145605
+  R2=6.6163187388244
+  dL3=2e-06
+  dC3=9.9e-012
+  dL4=6.11e-009
+  dC4=13.33e-014
+  dR3=0.48
+  dR4=11080
+  dR5=0.58
+  dR6=366
+  Rdc=0.51
+  ck=3.4pF
.ends  UU98V_744862033_3.3m
  ********* 
.SUBCKT  UU98V_744862056_5.6m  1  2  3  4
X1  1  2  3  4  TFC  PARAMS:
+  L1=0.00553660190142394
+  L2=0.00006701705440674
+  L3=0.000493004088894302
+  L4=0.000224826199486956
+  L5=3.25504570380959e-008
+  L6=2.78498066135292e-008
+  C1=8.46181731944311e-012
+  C2=3.73670849014524e-012
+  C3=1.27097127528123e-012
+  Rs1=92837.81419587115
+  Rs2=7155.91701442969
+  Rs3=192.411087825075
+  Rs4=5573.70200019057
+  Rs5=200.0826799302894
+  Rs6=1129.380663145605
+  R2=6.6163187388244
+  dL3=3.2e-06
+  dC3=9.9e-012
+  dL4=3.11e-009
+  dC4=10.33e-014
+  dR3=0.48
+  dR4=14080
+  dR5=0.58
+  dR6=266
+  Rdc=0.83
+  ck=3.4pF
.ends  UU98V_744862056_5.6m
   *********
.SUBCKT  UU98V_744862082_8.2m  1  2  3  4
X1  1  2  3  4  TFC  PARAMS:
+  L1=0.00803660190142394
+  L2=0.00008701705440674
+  L3=0.000493004088894302
+  L4=0.000224826199486956
+  L5=3.25504570380959e-008
+  L6=2.78498066135292e-008
+  C1=9.06181731944311e-012
+  C2=3.73670849014524e-012
+  C3=1.27097127528123e-012
+  Rs1=142837.81419587115
+  Rs2=7155.91701442969
+  Rs3=192.411087825075
+  Rs4=5573.70200019057
+  Rs5=200.0826799302894
+  Rs6=1129.380663145605
+  R2=6.6163187388244
+  dL3=5.2e-06
+  dC3=9.9e-012
+  dL4=3.61e-009
+  dC4=10.33e-014
+  dR3=0.48
+  dR4=15080
+  dR5=0.58
+  dR6=166
+  Rdc=1.3
+  ck=3.4pF
.ends  UU98V_744862082_8.2m
  ********* 
.SUBCKT  UU98V_744862120_12m  1  2  3  4
X1  1  2  3  4  TFC  PARAMS:
+  L1=0.01253660190142394
+  L2=0.00008701705440674
+  L3=0.000493004088894302
+  L4=0.000224826199486956
+  L5=2.25504570380959e-008
+  L6=2.78498066135292e-008
+  C1=1.09181731944311e-011
+  C2=3.73670849014524e-012
+  C3=1.27097127528123e-012
+  Rs1=245837.81419587115
+  Rs2=7155.91701442969
+  Rs3=192.411087825075
+  Rs4=5573.70200019057
+  Rs5=70.0826799302894
+  Rs6=1129.380663145605
+  R2=8.6163187388244
+  dL3=7.5e-06
+  dC3=1.2e-011
+  dL4=3.61e-009
+  dC4=10.33e-014
+  dR3=0.48
+  dR4=15080
+  dR5=0.58
+  dR6=126
+  Rdc=2
+  ck=3.4pF
.ends  UU98V_744862120_12m
   *********
.SUBCKT  UU98V_744862180_18m  1  2  3  4
X1  1  2  3  4  TFC  PARAMS:
+  L1=0.01753660190142394
+  L2=0.00008701705440674
+  L3=0.000493004088894302
+  L4=0.000224826199486956
+  L5=2.25504570380959e-008
+  L6=2.78498066135292e-008
+  C1=9.39181731944311e-012
+  C2=3.73670849014524e-012
+  C3=1.27097127528123e-012
+  Rs1=345837.81419587115
+  Rs2=7155.91701442969
+  Rs3=192.411087825075
+  Rs4=5573.70200019057
+  Rs5=70.0826799302894
+  Rs6=1129.380663145605
+  R2=8.6163187388244
+  dL3=1.15e-05
+  dC3=1.05e-011
+  dL4=3.61e-009
+  dC4=10.33e-014
+  dR3=0.48
+  dR4=20080
+  dR5=0.58
+  dR6=126
+  Rdc=3.1
+  ck=3.4pF
.ends  UU98V_744862180_18m
  ********* 
.SUBCKT  UU98V_744862250_25m  1  2  3  4
X1  1  2  3  4  TFC  PARAMS:
+  L1=0.02553660190142394
+  L2=0.00008701705440674
+  L3=0.000493004088894302
+  L4=0.000224826199486956
+  L5=2.25504570380959e-008
+  L6=2.78498066135292e-008
+  C1=8.69181731944311e-012
+  C2=3.73670849014524e-012
+  C3=1.27097127528123e-012
+  Rs1=705837.81419587115
+  Rs2=7155.91701442969
+  Rs3=192.411087825075
+  Rs4=5573.70200019057
+  Rs5=70.0826799302894
+  Rs6=829.380663145605
+  R2=23.6163187388244
+  dL3=1.6e-05
+  dC3=1.0e-011
+  dL4=3.61e-009
+  dC4=10.33e-014
+  dR3=0.48
+  dR4=21080
+  dR5=0.58
+  dR6=26
+  Rdc=3.6
+  ck=3.4pF
.ends  UU98V_744862250_25m
   *********
.SUBCKT  UU98V_744862100_10m  1  2  3  4
X1  1  2  3  4  TFC  PARAMS:
+  L1=0.01053660190142394
+  L2=0.00020701705440674
+  L3=0.20003004088894302
+  L4=0.000284826199486956
+  L5=3.25504570380959e-008
+  L6=2.78498066135292e-008
+  C1=12.06181731944311e-012
+  C2=3.73670849014524e-012
+  C3=1.27097127528123e-012
+  Rs1=167000.81419587115
+  Rs2=7155.91701442969
+  Rs3=192.411087825075
+  Rs4=5573.70200019057
+  Rs5=200.0826799302894
+  Rs6=1129.380663145605
+  R2=6.6163187388244
+  dL3=5.95e-06
+  dC3=11.95e-012
+  dL4=3.61e-009
+  dC4=30.33e-014
+  dR3=0.48
+  dR4=15700
+  dR5=0.58
+  dR6=200
+  Rdc=1.65
+  ck=3.4pF
.ends  UU98V_744862100_10m
  **********
.SUBCKT  UU98H_744861018_1.8m  1  2  3  4
X1  1  2  3  4  TFC  PARAMS:
+  L1=0.00193660190142394
+  L2=0.00002701705440674
+  L3=0.0000023004088894302
+  L4=0.000001826199486956
+  L5=4.65504570380959e-008
+  L6=2.78498066135292e-008
+  C1=8.46181731944311e-012
+  C2=3.73670849014524e-012
+  C3=1.57097127528123e-012
+  Rs1=12837.81419587115
+  Rs2=155.91701442969
+  Rs3=192.411087825075
+  Rs4=573.70200019057
+  Rs5=2.0826799302894
+  Rs6=1629.380663145605
+  R2=3.6163187388244
+  dL3=9e-07
+  dC3=8.0e-012
+  dL4=4.81e-009
+  dC4=5.33e-018
+  dR3=0.048
+  dR4=9280
+  dR5=11.8
+  dR6=766
+  Rdc=0.31
+  ck=2.32pF
.ends  UU98H_744861018_1.8m
   ******** 
.SUBCKT  UU98H_744861033_3.3m  1  2  3  4
X1  1  2  3  4  TFC  PARAMS:
+  L1=0.00323660190142394
+  L2=0.00006701705440674
+  L3=0.000493004088894302
+  L4=0.000224826199486956
+  L5=1.65504570380959e-008
+  L6=1.78498066135292e-008
+  C1=8.46181731944311e-012
+  C2=2.73670849014524e-012
+  C3=1.27097127528123e-012
+  Rs1=49837.81419587115
+  Rs2=7155.91701442969
+  Rs3=192.411087825075
+  Rs4=5573.70200019057
+  Rs5=200.0826799302894
+  Rs6=1129.380663145605
+  R2=16.6163187388244
+  dL3=1.9e-06
+  dC3=7e-012
+  dL4=7.5e-009
+  dC4=13.33e-014
+  dR3=0.48
+  dR4=12780
+  dR5=0.58
+  dR6=266
+  Rdc=0.51
+  ck=2.32pF
.ends  UU98H_744861033_3.3m
   ******** 
.SUBCKT  UU98H_744861056_5.6m  1  2  3  4
X1  1  2  3  4  TFC  PARAMS:
+  L1=0.00553660190142394
+  L2=0.00006701705440674
+  L3=0.000493004088894302
+  L4=0.000224826199486956
+  L5=1.25504570380959e-008
+  L6=2.78498066135292e-008
+  C1=8.06181731944311e-012
+  C2=3.73670849014524e-012
+  C3=1.27097127528123e-012
+  Rs1=57837.81419587115
+  Rs2=7155.91701442969
+  Rs3=192.411087825075
+  Rs4=5573.70200019057
+  Rs5=200.0826799302894
+  Rs6=1129.380663145605
+  R2=36.6163187388244
+  dL3=3.2e-06
+  dC3=7.8e-012
+  dL4=3.11e-009
+  dC4=10.33e-014
+  dR3=0.48
+  dR4=14080
+  dR5=0.58
+  dR6=366
+  Rdc=0.83
+  ck=2.32pF
.ends  UU98H_744861056_5.6m
   ******** 
.SUBCKT  UU98H_744861082_8.2m  1  2  3  4
X1  1  2  3  4  TFC  PARAMS:
+  L1=0.00823660190142394
+  L2=0.00008701705440674
+  L3=0.000493004088894302
+  L4=0.000224826199486956
+  L5=3.25504570380959e-008
+  L6=2.78498066135292e-008
+  C1=8.16181731944311e-012
+  C2=1.73670849014524e-012
+  C3=1.27097127528123e-012
+  Rs1=110837.81419587115
+  Rs2=7155.91701442969
+  Rs3=192.411087825075
+  Rs4=5573.70200019057
+  Rs5=20.0826799302894
+  Rs6=729.380663145605
+  R2=16.6163187388244
+  dL3=5e-06
+  dC3=7.7e-012
+  dL4=3.61e-009
+  dC4=10.33e-014
+  dR3=0.48
+  dR4=16280
+  dR5=0.58
+  dR6=166
+  Rdc=1.3
+  ck=2.32pF
.ends  UU98H_744861082_8.2m
   ******** 
.SUBCKT  UU98H_744861100_10m  1  2  3  4
X1  1  2  3  4  TFC  PARAMS:
+  L1=0.01023660190142394
+  L2=0.00008701705440674
+  L3=0.000493004088894302
+  L4=0.000224826199486956
+  L5=3.25504570380959e-008
+  L6=2.78498066135292e-008
+  C1=12.16181731944311e-012
+  C2=1.73670849014524e-012
+  C3=1.27097127528123e-012
+  Rs1=170837.81419587115
+  Rs2=7155.91701442969
+  Rs3=192.411087825075
+  Rs4=5573.70200019057
+  Rs5=20.0826799302894
+  Rs6=1029.380663145605
+  R2=1.6163187388244
+  dL3=6.8e-06
+  dC3=10.5e-012
+  dL4=4.61e-009
+  dC4=8.33e-014
+  dR3=0.48
+  dR4=16280
+  dR5=0.58
+  dR6=466
+  Rdc=1.65
+  ck=2.32pF
.ends  UU98H_744861100_10m
   ******** 
.SUBCKT  UU98H_744861120_12m  1  2  3  4
X1  1  2  3  4  TFC  PARAMS:
+  L1=0.01253660190142394
+  L2=0.00008701705440674
+  L3=0.000493004088894302
+  L4=0.000224826199486956
+  L5=2.25504570380959e-008
+  L6=2.78498066135292e-008
+  C1=1.49181731944311e-011
+  C2=3.73670849014524e-012
+  C3=1.27097127528123e-012
+  Rs1=275837.81419587115
+  Rs2=7155.91701442969
+  Rs3=192.411087825075
+  Rs4=5573.70200019057
+  Rs5=70.0826799302894
+  Rs6=1129.380663145605
+  R2=15.6163187388244
+  dL3=8.1e-06
+  dC3=1.3e-011
+  dL4=3.61e-009
+  dC4=10.33e-014
+  dR3=0.48
+  dR4=16080
+  dR5=0.58
+  dR6=96
+  Rdc=2
+  ck=2.32pF
.ends  UU98H_744861120_12m
  ******** 
.SUBCKT  UU98H_744861180_18m  1  2  3  4
X1  1  2  3  4  TFC  PARAMS:
+  L1=0.01753660190142394
+  L2=0.00008701705440674
+  L3=0.000493004088894302
+  L4=0.000224826199486956
+  L5=2.25504570380959e-008
+  L6=2.78498066135292e-008
+  C1=15.99181731944311e-012
+  C2=3.73670849014524e-012
+  C3=1.27097127528123e-012
+  Rs1=331837.81419587115
+  Rs2=7155.91701442969
+  Rs3=192.411087825075
+  Rs4=5573.70200019057
+  Rs5=70.0826799302894
+  Rs6=1129.380663145605
+  R2=8.6163187388244
+  dL3=1.15e-05
+  dC3=1.55e-011
+  dL4=3.61e-009
+  dC4=10.33e-014
+  dR3=0.48
+  dR4=17080
+  dR5=0.58
+  dR6=126
+  Rdc=3.1
+  ck=2.32pF
.ends  UU98H_744861180_18m
   ******** 
.SUBCKT  UU98H_744861250_25m  1  2  3  4
X1  1  2  3  4  TFC  PARAMS:
+  L1=0.03353660190142394
+  L2=0.00008701705440674
+  L3=0.000493004088894302
+  L4=0.000224826199486956
+  L5=2.25504570380959e-008
+  L6=2.78498066135292e-008
+  C1=13.69181731944311e-012
+  C2=3.73670849014524e-012
+  C3=1.27097127528123e-012
+  Rs1=555837.81419587115
+  Rs2=7155.91701442969
+  Rs3=192.411087825075
+  Rs4=5573.70200019057
+  Rs5=70.0826799302894
+  Rs6=829.380663145605
+  R2=23.6163187388244
+  dL3=1.6e-05
+  dC3=1.3e-011
+  dL4=3.61e-009
+  dC4=10.33e-014
+  dR3=0.48
+  dR4=21080
+  dR5=0.58
+  dR6=26
+  Rdc=3.6
+  ck=2.32pF
.ends  UU98H_744861250_25m
  
